US07989461B2
To a microwave vial were added ammonium formate (131 μl, 2664 μmol), 6-bromo-7-methyl-8-nitro-N-(3-(trifluoromethyl)phenyl)quinazolin-4-amine (569 mg, 1332 μmol), and palladium black (11.8 μl, 1332 μmol) in ethanol (10 mL). The reaction mixture was heated to 140° C. for 20 min under microwave conditions and taking care to monitor the pressure in the reaction vessel. On cooling the reaction mixture was filtered through celite and filtrate concentrated in vacuo to afford 7-methyl-N4-(3-(trifluoromethyl)phenyl)quinazoline-4,8-diamine (238 mg, 56.1% yield). MS (M+H)+ 319.

reactant | ammonium formate | 2664 μmol, 131 μl | C(=O)[O-].[NH4+]
reactant | 6-bromo-7-methyl-8-nitro-N-(3-(trifluoromethyl)phenyl)quinazolin-4-amine | 1332 μmol, 569 mg | BrC=1C=C2C(=NC=NC2=C(C1C)[N+](=O)[O-])NC1=CC(=CC=C1)C(F)(F)F | C16H10BrF3N4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium black | 1332 μmol, 11.8 μl | [Pd] | Pd
product | 7-methyl-N4-(3-(trifluoromethyl)phenyl)quinazoline-4,8-diamine | 238 mg, 56.1% yield | CC1=CC=C2C(=NC=NC2=C1N)NC1=CC(=CC=C1)C(F)(F)F | C16H13F3N4
